US06495561B2
(1H-Benzoimidazol-2-yl)-(4-benzyl-cyclohexyl)-methanol
Example 3 was prepared by the following procedure. To a stirred solution of 20 mg of 2-(4-benzyl-cyclohexylidenemethyl)-1H-benzimidazole in 10 mL of THF cooled in an ice bath was added 1 mL of 1M borane·TBF. After stirring for 24 h warming to room temperature, 0.5 mL of water was added followed by 0.5 mL of 6N sodium hydroxide and 0.5 mL of 30% hydrogen peroxide. After 30 min, the solution was diluted with 100 mL of chloroform, washed 2×10 mL of water, dried over magnesium sulfate and concentrated to dryness.

reactant | 2-(4-benzyl-cyclohexylidenemethyl)-1H-benzimidazole | 20 mg | C(C1=CC=CC=C1)C1CCC(CC1)=CC1=NC2=C(N1)C=CC=C2 | C21H22N2
reactant | water | 0.5 mL | O | H2O
reactant | sodium hydroxide | 6N, 0.5 mL | [OH-].[Na+]
reactant | hydrogen peroxide | 0.5 mL | OO | H2O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | (1H-Benzoimidazol-2-yl)-(4-benzyl-cyclohexyl)-methanol | N1C(=NC2=C1C=CC=C2)C(O)C2CCC(CC2)CC2=CC=CC=C2 | C21H24N2O
